US04710496
10 millimoles of 6-(4-aminophenyl)-4,5-dihydro-5-methylpyridazinone in toluene were refluxed with 13 millimoles of toluenesulfonic acid and 12 millimoles of 2,5-dimethoxy-3-dimethylaminomethyltetrahydrofuran with the addition of a little dimethylformamide, this procedure being carried out under a water separator. When the reaction was complete, which was determined by thin layer chromatography, the major part of the solvent was stripped off, the residue was taken up in dimethylformamide and the solution was poured into saturated NaHCO3 solution. The aqueous phase was extracted with CH2Cl2 and the organic extract was dried over Na2SO4 and evaporated down in a rotary evaporator. The crude product was purified by column chromatography (SiO2, CH2Cl2 /CH3OH). 6-[4-(3-Dimethylaminomethylpyrrol-1-yl)-phenyl]-4,5-dihydro-5-methylpyridazinone was obtained, this substance being identical to that synthesized in Example 3A.

reactant | 6-(4-aminophenyl)-4,5-dihydro-5-methylpyridazinone | 10 millimoles | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | toluenesulfonic acid | 13 millimoles | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,5-dimethoxy-3-dimethylaminomethyltetrahydrofuran | 12 millimoles | COC1OC(CC1CN(C)C)OC | C9H19NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[4-(3-Dimethylaminomethylpyrrol-1-yl)-phenyl]-4,5-dihydro-5-methylpyridazinone | CN(C)CC1=CN(C=C1)C1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C18H22N4O
